US08138208B2
(4-Hydroxyimino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (IX)
To a stirred solution of (4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (222 mg, 10 mmol) in ethanol (10 mL) was added hydroxylammonium chloride (74 mg, 10.5 mmol). The reaction mixture was heated at reflux for 1 hour. After cooling to room temperature, a solution of concentrated ammonia and saturated ammonium chloride (10 mL, 1:5, v/v) was added to the reaction mixture. The resulting solution was extracted with ethyl acetate (25 mL×3). The combined organic layers were washed with brine (30 mL), dried over sodium sulfate and concentrated in vacuo to give 4-hydroxyimino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (203 mg, 85%) as a white solid, which was used for the next step without further purification. The above white solid contained a pair of isomers in 10 to 1 ratio as determined by 1HNMR. for the major isomer, 1H NMR (400 MHz, CDCl3) δ ppm 8.29 (s, 1 H), 4.89 (s, 2 H), 4.26 (m, 2 H), 2.73 (t, J=6.4 Hz, 2 H), 2.58 (t, J=6.4 Hz, 2 H), 2.10 (t, J=6.4 Hz, 2 H), 1.31 (t, J=7.2 Hz, 3 H). MS calcd. for C11H15N3O3 237, obsd. (ESI+) [(M+H)+] 238.

reactant | (4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 10 mmol, 222 mg | C(C)OC(CN1N=CC=2C(CCCC12)=O)=O | C11H14N2O3
reactant | hydroxylammonium chloride | 10.5 mmol, 74 mg | [Cl-].O[NH3+]
reactant | ammonia | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (4-Hydroxyimino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC=2C(CCCC12)=NO)=O | C11H15N3O3
